US03956310
11.1 Parts of 7,14-diazadispiro[5.1.5.2]pentadecan-15-one, 2.9 parts of methyl isocyanate and a trace of 1,4-diazabicyclo[2.2.2]octane in 80 parts of dry benzene were heated at reflux for 48 hours, cooled and filtered. The filtrate was evaporated to dryness and the residue recrystallised from ethanol, and dried in vacuo to give 9 parts of 14-methylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one, having a melting point of 98° to 100°C. This material gave the following elemental analysis by weight:

reactant | 7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1CCCCC12NC1(CCCCC1)NC2=O | C13H22N2O
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 14-methylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one | CNC(=O)N1C2(NC3(CCCCC3)C1=O)CCCCC2 | C15H25N3O2
